US09079853B2
3-(2-(1H-indol-3-yl)-2-oxoethyl)-3-hydroxy-1-isobutylindolin-2-one
This compound was made in a similar manner to 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one using 1-isobutylindoline-2,3-dione and commercially available 1-(1H-indol-3-yl)ethanone (purchased from Fisher Scientific). 1H-NMR δ 8.87 (bs, NH), 8.38 (m, 1H), 7.72 (d, 3.1 Hz, 1H), 7.49 (dd, 1H), 7.47 (m, 1H) 7.30 (m, 3H), 7.01 (dd, 1H), 6.86 (d, 7.8, 1H), 3.51 (m, 3H), 3.24 (d, 1H), 2.16 (m, 1H) 0.98 (dd, 6H). Calculated mass for C22H22N2O3, 362.16. Observed 385.3 (M+Na).

reactant | 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one | C(CCC)N1C(C(C2=CC=CC=C12)(CC(C1=NC=CC=C1)=O)O)=O | C19H20N2O3
reactant | 1-isobutylindoline-2,3-dione | C(C(C)C)N1C(C(C2=CC=CC=C12)=O)=O | C12H13NO2
reactant | 1-(1H-indol-3-yl)ethanone | N1C=C(C2=CC=CC=C12)C(C)=O | C10H9NO
product | 3-(2-(1H-indol-3-yl)-2-oxoethyl)-3-hydroxy-1-isobutylindolin-2-one | N1C=C(C2=CC=CC=C12)C(CC1(C(N(C2=CC=CC=C12)CC(C)C)=O)O)=O | C22H22N2O3
